US04386211
N-[2-[[2-[(aminoiminomethyl)amino]-4-thiazolyl]methylthio]ethyl]-N'-(4-methyl-2-thiazolyl)urea
To 4.60 g (15.1 mmole) of 2-guanidino-4-[(2-aminoethyl)thiomethyl]thiazole dihydrochloride stirred under flowing nitrogen in 170 ml of dry pyridine is added 1.38 g (ca. 30.3 mmole) of a 50 percent dispersion in oil of sodium hydride. After about 1 hour 2.80 g (15.0 mmole) of 2-carbethoxyamino-4-methylthiazole is added, and the resultant mixture is heated at reflux for 2 days. After partial cooling, the mixture is decanted through a sintered glass funnel using suction, all residues being discarded, and the filtered supernatant is concentrated in vacuo to a thick gum. Residual mineral oil is removed by trituration with several portions of diethyl ether and pentane, and the residue is purified by column chromatography* on silica gel. Fractions containing the product are combined, partially concentrated, filtered, and thoroughly dried by concentration in vacuo, giving 1.20 g (3.1 mmole) of the desired product as an ethanol solvate. Structure assignment and solvation by one quarter mole of ethanol per mole of product are supported by nmr.

reactant | 2-guanidino-4-[(2-aminoethyl)thiomethyl]thiazole dihydrochloride | 15.1 mmole, 4.60 g | Cl.Cl.N(C(=N)N)C=1SC=C(N1)CSCCN
reactant | sodium hydride | [H-].[Na+]
reactant | 2-carbethoxyamino-4-methylthiazole | 15.0 mmole, 2.80 g | C(=O)(OCC)NC=1SC=C(N1)C | C7H10N2O2S
reactant | ethanol | C(C)O | C2H6O
reactant | pyridine | 170 ml | N1=CC=CC=C1 | C5H5N
product | N-[2-[[2-[(aminoiminomethyl)amino]-4-thiazolyl]methylthio]ethyl]-N'-(4-methyl-2-thiazolyl)urea | 3.1 mmole, 1.20 g | NN=CNC=1SC=C(N1)CSCCNC(=O)NC=1SC=C(N1)C | C12H17N7OS3
